US07220766B2
Step A: Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-((3,5-dimethylisoxazol-4-yl)methoxy)phenyl]propionate
(3,5-Dimethylisoxazol-4-yl)methanol (0.28 g, 1.5 mmol), methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)propionate (0.36 g, 1 mmol) and triphenylphosphine (0.79 g, 3 mmol) were dissolved in tetrahydrofuran (2 ml). After cooling to 5° C., DEAD (0.52 g, 3 mmol) was added to the reaction mixture. The reaction was then stirred at room temperature for 18–24 h. THF was evaporated to obtain crude title product.

reactant | (3,5-Dimethylisoxazol-4-yl)methanol | 1.5 mmol, 0.28 g | CC1=NOC(=C1CO)C | C6H9NO2
reactant | methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)propionate | 1 mmol, 0.36 g | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)O)=O | C17H16N2O5S
reactant | triphenylphosphine | 3 mmol, 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 3 mmol, 0.52 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-((3,5-dimethylisoxazol-4-yl)methoxy)phenyl]propionate | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)OCC=2C(=NOC2C)C)=O | C23H23N3O6S
